US04118435
68.7 g (0.5 mol) of phosphorustrichloride and 166 g (1 mol) of triethylphosphite, in which 2 grams of tris-2-ethylhexyl-phosphineoxide were dissolved, were simultaneously added dropwise into a flask within 30 minutes and mixed together by stirring while cooling at 48° to 52° C. At the end of the mixing process, the colorless slightly cloudy solution had the following composition: 6% C2H5OPCl2 ; 85% (C2H5O)2PCl; 5% (C2H5O)3P. In order to obtain pure phosphorous acid-diethyl ester-chloride, the high boiling constituents were first separated off at 10mm Hg and at a head temperature of 38° to 50° C. in a rapid distillation and the distillate was subsequently subjected to fine distillation. The product obtained at 33mm Hg and a head temperature of 60° to 62° C. was of 96% priority and its H-NMR agreed with the expected structure.

reactant | phosphorustrichloride | 0.5 mol, 68.7 g | P(Cl)(Cl)Cl | Cl3P
reactant | triethylphosphite | 1 mol, 166 g | C(C)OP(OCC)OCC | C6H15O3P
reactant | C2H5OPCl2 | C(C)OP(Cl)Cl | C2H5Cl2OP
reactant | (C2H5O)2PCl | P(OCC)(OCC)Cl | C4H10ClO2P
reactant | (C2H5O)3P | P(OCC)(OCC)OCC | C6H15O3P
product | phosphorous acid-diethyl ester-chloride | [Cl-].C(C)OP(OCC)O | InChI=1S/C4H11O3P.ClH/c1-3-6-8(5)7-4-2;/h5H,3-4H2,1-2H3;1H/p-1
